US04878940
To a stirred mixture of 5.1 parts of 1-(1,2,3,4-tetrahydro-2,2-dimethyl-1-naphthalenyl)-1H-imidazole-5-methanamine and 75 parts of trichloromethane was added dropwise a solution of 2.0 parts of acetic acid anhydride in 150 parts of trichloromethane. Upon complete addition, stirring was continued for 1 hour at room temperature. The reaction mixture was washed with a sodium carbonate solution 10% and water, dried, filtered and evaporated. The residue was crystallized from 2-propanone. The product was filtered off and dried, yielding 3.61 parts (60.6%) of N-[[1-(1,2,3,4-tetrahydro-2,2-dimethyl-1-naphthalenyl)-1H-imidazol-5-yl]methyl]acetamide; mp. 166.3° C. (compound 2.47).

reactant | 1-(1,2,3,4-tetrahydro-2,2-dimethyl-1-naphthalenyl)-1H-imidazole-5-methanamine | CC1(C(C2=CC=CC=C2CC1)N1C=NC=C1CN)C | C16H21N3
reactant | acetic acid anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | trichloromethane | ClC(Cl)Cl | CHCl3
product | N-[[1-(1,2,3,4-tetrahydro-2,2-dimethyl-1-naphthalenyl)-1H-imidazol-5-yl]methyl]acetamide | 60.6% | CC1(C(C2=CC=CC=C2CC1)N1C=NC=C1CNC(C)=O)C | C18H23N3O
